* C:\Users\iwamoto\Desktop\sound_remocon_kicad\mixer_circuit.asc
R1 N004 N003 10k
R2 N004 N008 10k
R3 N004 N011 10k
R4 N006 N004 10k
XU1 N005 N004 N001 0 N006 LT1001
V1 N001 0 5
V2 N002 0 PULSE(0 5 0 0 0 0.125m 0.25m)
V3 N007 0 PULSE(0 5 0 0 0 0.1m 0.2m)
V4 N010 0 PULSE(0 5 0 0 0 0.083333m 0.16666m)
R5 N001 N005 10k
R6 N005 0 10k
C1 N003 N002 0.1µ
C2 N008 N007 0.1µ
C3 N011 N010 0.1µ
R7 N009 N006 3.3k
C4 N009 0 0.001µ
R8 output 0 100k
C5 output N009 4.7µ
.tran 0.1
.lib LTC.lib
.backanno
.end
